US07960561B2
N-(Benzimidazol-2-yl)-4-fluoroaniline
The title compound was prepared from 2-chlorobenzimidazole and 4-fluoroaniline by Procedure A. The product was isolated by filtration to give the title compound as a hydrochloride salt (solid, mp 215-216° C.). MS(ES+) m/z 228 ([M+1]+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | N-(Benzimidazol-2-yl)-4-fluoroaniline | N1=C(NC2=C1C=CC=C2)NC2=CC=C(C=C2)F | C13H10FN3
